US07709647B2
(1-Benzyl-6-cyano-1,2,3,4-tetrahydroquinolin-3-yl)-carbamic acid 4-hydroxycyclohexyl ester
The title compound was prepared from (6-cyano-1,2,3,4-tetrahydroquinolin-3-yl)-carbamic acid tert-butyl ester, prepared as described in Example 1C, and benzaldehyde by procedures analogous to those described in Example 3A and 31.

reactant | (6-cyano-1,2,3,4-tetrahydroquinolin-3-yl)-carbamic acid tert-butyl ester | C(C)(C)(C)OC(NC1CNC2=CC=C(C=C2C1)C#N)=O | C15H19N3O2
reactant | benzaldehyde | C(C1=CC=CC=C1)=O | C7H6O
product | (1-Benzyl-6-cyano-1,2,3,4-tetrahydroquinolin-3-yl)-carbamic acid 4-hydroxycyclohexyl ester | OC1CCC(CC1)OC(NC1CN(C2=CC=C(C=C2C1)C#N)CC1=CC=CC=C1)=O | C24H27N3O3
